US09399623B2
2-(3-Acetylamino-pyrrolidin-1-yl)-6-chloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide (67)
The title compound was synthesized according to the procedure described in example 1 using 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide, and N-pyrrolidin-3-yl-acetamide with DMSO as a solvent. 1H NMR (400 MHz, DMSO-d6): δ 8.73-8.76 (m, 1H), 8.17-8.18 (m, 1H), 7.72-7.75 (m, 1H), 7.49-7.56 (m, 2H), 6.96-6.99 (m, 1H), 4.34-4.35 (m, 1H), 3.71-3.76 (m, 1H), 3.59-3.63 (m, 2H), 3.38-3.40 (m, 1H), 3.22-3.25 (m, 2H), 2.15-2.20 (m, 1H), 2.01-2.07 (m, 2H), 1.73-1.94 (m, 9H), 1.29-1.32 (m, 2H). m/z: 465.2 [M+H]+

reactant | 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl)F | C17H16Cl2F2N2O
reactant | N-pyrrolidin-3-yl-acetamide | N1CC(CC1)NC(C)=O | C6H12N2O
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-(3-Acetylamino-pyrrolidin-1-yl)-6-chloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)N1CC(CC1)NC(C)=O)F | C23H27ClF2N4O2
